US05034402
1.64 g of dicyclohexylcarbondiimide dissolved in 20 ml of chloroform are added at room temperature to 1.5 g of (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetic acid, 40 ml of chloroform and 0.86 g of N-hydroxysuccinimide. After 4 hours, the solid is filtered, whereupon the filtrate is concentrated and again filtered. The filtrate is evaporated. The residue is treated at room temperature with 40 ml of a saturated solution of ammonia in methanol. The mixture is stirred at room temperature for 5 minutes, 10 ml of ion-free water are then added thereto and the mixture is stirred at room temperature for an additional minutes. The precipitated solid is filtererd. The filtrate is evaporated, the residue is stirred in 30 ml of acetonitrile and the crystallized-out product is recrystallized two more times from acetonitrile. There is obtained (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide of melting point 162°-164°.

reactant | (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetic acid | C(C)(=O)OC1C(N(CC1)CC(=O)O)=O | C8H11NO5
reactant | N-hydroxysuccinimide | 0.86 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | OC1C(N(CC1)CC(=O)N)=O | C6H10N2O3
